US20010041799A1
To a solution of 1-[4-(methylthio)butyl]cyclopentanecarboxylic acid methyl ester (18.8 mmol, 4.94 g) in a mixture of THF (38 mL) and methanol (3 8 mL) was added 1 N sodium hydroxide (38 mL)and the mixture was heated to 50-55° C. for 15 h. TLC analysis of the reaction mixture did not detect the presence of starting ester and the reaction was cooled to room temperature,. The volatiles were removed under reduced pressure and the residue was diluted with water (100 mL) and was extracted with diethyl ether (2×50 mL) to remove any neutral impurities. Then the separated aqueous layer was acidified with 1 N hydrochloric acid and the mixture was extracted with ethyl acetate (2×75 mL). The combined ethyl acetate extracts were washed with brine, dried (MgSO4), filtered, then concentrated in vacuo and the residue was dried under high vacuum to afford 4.31 g (92%) of 1-[4-(methylthio)butyl]cyclopentanecarboxylic acid as a low melting colorless solid. HR MS: Obs. mass, 216.1181. Calcd. mass, 216.1184, M+.

reactant | 1-[4-(methylthio)butyl]cyclopentanecarboxylic acid methyl ester | 18.8 mmol, 4.94 g | COC(=O)C1(CCCC1)CCCCSC | C12H22O2S
reactant | sodium hydroxide | 1 N, 38 mL | [OH-].[Na+]
solvent | THF | 38 mL | C1CCOC1 | C4H8O
solvent | methanol | 8 mL | CO | CH4O
product | 1-[4-(methylthio)butyl]cyclopentanecarboxylic acid | 4.31 g, 92% | CSCCCCC1(CCCC1)C(=O)O | C11H20O2S
